US04831173
49 g (0.5 mole) of methyl-methoxyamine hydrochloride, 101 g (1 mole) of triethylamine in 250 ml of dry ether is treated with carbon dioxide in the same apparatus and under the same conditions as described in Example 1a. When the carbon dioxide absorption has been ceased, 54 g (0.5 mole) of trimethylchlorosilane is added to the reaction mixture over about 1 hour. Following the same procedure as in Example 1a. 73.2 g (82%) of N-methoxy,N-methylcarbamic acid trimethylsilyl ester are obtained. B.p.: 38-41° C./2.5 mbar.

reactant | methyl-methoxyamine hydrochloride | 0.5 mole, 49 g | Cl.CNOC
reactant | triethylamine | 1 mole, 101 g | C(C)N(CC)CC | C6H15N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | trimethylchlorosilane | 0.5 mole, 54 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | ether | 250 ml | CCOCC | C4H10O
product | N-methoxy,N-methylcarbamic acid trimethylsilyl ester | 73.2 g, 82% | C[Si](C)(C)OC(N(C)OC)=O | C6H15NO3Si
